US06187777B1
2,5-Dimethyl-3-(2-methyl-4-piperidylpyrrolo[4,5-d]pyrimidin-6-yl)thiophene Hydrochloride Hydrate.
Using the method described in Example 30 by employing 2,5-dimethyl-3-(1-pyrrolidinylvinyl) thiophene (freshly prepared before use) (1.40 g, 6.76 mmol), 2-methyl-4,6-dichloro-5-nitropyrimidine (Example 76(b)) (1.40 g, 6.76 mmol), N,N-diisopropyl ethyl amine (Aldrich Chemical Company) (1.2 mL, 6.76 mmol), piperidine (Aldrich Chemical Company) (1.1 mL, 10.8 mmol), NEt3 (Aldrich Chemical Company) (1.0 mL) and SnCl2 (20 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 335 mg (15%) of the free base as a beige colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.63 (br s, 6), 2.40 (s, 3), 2.42 (s, 3), 2.50 (s, 3), 3.70 (br s, 4), 6.36 (s, 1), 7.04 (s, 1), 10.82 (s, 1). MS m/z: 327 (M+1). To a hot solution of 2,5-dimethyl-3-(2-methyl-4-piperidyl pyrrolo[4,5-d]pyrimidin-6-yl)thiophene (0.35 g, 1.02 mmol) in 5:1 EtOAc:MeOH (40 mL) was added 1M etheral HCl (Aldrich Chemical Company) (1.00 mL, 1.00 mmol). Crystallization occurred as the mixture cooled and the precipitate was collected by filtration, washed with Et2O (2×5 mL) and dried under vacuum to give 222 mg (60%) of the title compound as a beige colored solid. Mp: 240-241.5° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.70 (br s, 6), 2.44 (s, 3), 2.50 (s, 3), 2.55 (s, 3), 4.02 (br s, 4), 6.54 (s, 1), 7.06 (s, 1), 11.89 (s, 1), 14.15 (s, 1). MS m/z: 327 (M+1). Anal. Calcd for C18 H22N4S.HCl.1.5H2O: C, 55.53; H, 6.68; N, 14.40; Cl, 9.00; S, 8.23. Found C, 55.62; H, 6.66; N, 14.31; Cl, 9.31; S, 8.28.

reactant | 2,5-dimethyl-3-(2-methyl-4-piperidyl pyrrolo[4,5-d]pyrimidin-6-yl)thiophene | 1.02 mmol, 0.35 g | CC=1SC(=CC1C1=NC=2C(NC(=NC2)C2CC(NCC2)C)=C1)C | C18H22N4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.00 mmol, 1M, 1.00 mL | Cl | ClH
solvent | MeOH | 40 mL | CO | CH4O
product | 2,5-Dimethyl-3-(2-methyl-4-piperidylpyrrolo[4,5-d]pyrimidin-6-yl)thiophene Hydrochloride Hydrate | 222 mg, 60% | O.Cl.CC=1SC(=CC1C1=NC=2C(NC(=NC2)C2CC(NCC2)C)=C1)C | InChI=1S/C18H22N4S.ClH.H2O/c1-10-6-13(4-5-19-10)18-20-9-17-16(22-18)8-15(21-17)14-7-11(2)23-12(14)3;;/h7-10,13,19H,4-6H2,1-3H3,(H,20,22);1H;1H2
